US05539115
1.1 g (2.5 mmol) of (-)-2-(4-(4-hydroxy-5,5,5-trifluoro-1-pentyl)phenyl)-5-decyloxypyrimidine was dissolved in 10 ml of pyridine, followed by addition of 0.53 g (3 mmol) of nonanoyl chloride and 2-hour reaction at 20°-30° C. The reaction mixture was diluted with 100 ml of toluene, and the toluene layer was washed with 4N hydrochloric acid, water, a 5% sodium bicarbonate solution and water successively in that order and concentrated under reduced pressure. The residue was purified by silica gel column chromatography using toluene/ethyl acetate as eluent to obtain 1.25 g of (+)-2-(4-(4-nonanoyloxy-5,5,5-trifluoro-1-pentyl)phenyl-5-decyloxypyrimidine.

reactant | (-)-2-(4-(4-hydroxy-5,5,5-trifluoro-1-pentyl)phenyl)-5-decyloxypyrimidine | 2.5 mmol, 1.1 g | OC(CCCC1=CC=C(C=C1)C1=NC=C(C=N1)OCCCCCCCCCC)C(F)(F)F | C25H35F3N2O2
reactant | nonanoyl chloride | 3 mmol, 0.53 g | C(CCCCCCCC)(=O)Cl | C9H17ClO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-nonanoyloxy-5,5,5-trifluoro-1-pentyl)phenyl-5-decyloxypyrimidine | C(CCCCCCCC)(=O)OC(CCCC1=CC=C(C=C1)C1=NC=C(C=N1)OCCCCCCCCCC)C(F)(F)F | C34H51F3N2O3
